Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Relevant Labs: 
==============
___ 05:02PM BLOOD WBC-8.5 RBC-4.59 Hgb-15.0 Hct-43.7 MCV-95 
MCH-32.7* MCHC-34.3 RDW-12.0 RDWSD-41.9 Plt ___
___ 05:02PM BLOOD Neuts-65.2 ___ Monos-9.4 Eos-0.6* 
Baso-0.8 Im ___ AbsNeut-5.52 AbsLymp-1.93 AbsMono-0.80 
AbsEos-0.05 AbsBaso-0.07
___ 06:18AM BLOOD WBC-6.0 RBC-4.31 Hgb-13.9 Hct-41.8 MCV-97 
MCH-32.3* MCHC-33.3 RDW-12.0 RDWSD-43.3 Plt ___
___ 05:02PM BLOOD ___ PTT-27.2 ___
___ 06:18AM BLOOD Glucose-87 UreaN-8 Creat-0.7 Na-142 K-4.1 
Cl-102 HCO3-26 AnGap-14
___ 06:18AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.0
___ 06:18AM BLOOD Valproa-66 (within therapeutic range) 
___ 05:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:10PM BLOOD Glucose-125* Lactate-2.7* Creat-0.7 
Na-137 K-3.6 Cl-102 calHCO3-24

Imaging: 
========
CT C-SPINE W/O CONTRAST ___
FINDINGS:   
Alignment is normal. No fractures are identified. 
There are mild degenerative changes at C3-4 with loss of 
intervertebral disc 
height, anterior marginal osteophyte formation and bilateral 
uncovertebral 
hypertrophy.  There is no significant spinal canal or neural 
foraminal 
stenosis. There is no prevertebral soft tissue swelling.  
There is biapical pleuroparenchymal scarring.  Otherwise, the 
bilateral lung apices are clear.  There are no thyroid nodules.  

IMPRESSION:  
No acute fracture or traumatic malalignment of the cervical 
spine. 

CT HEAD W/O CONTRAST ___
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Small subgaleal hematoma overlying the right parietal bone 
without 
underlying fracture. 

CT CHEST/ABD/PELVIS W/ CONTRAST ___
IMPRESSION:   
1. Nondisplaced fracture of the right clavicle. 
2. Minimal anterior displacement of the coccyx, which is of 
indeterminate 
chronicity.  No underlying fracture.  Correlation with point 
tenderness is 
recommended. 
3. Otherwise, no additional acute processes within the chest, 
abdomen, or 
pelvis. 

CHEST X-RAY (PORTABLE AP) ___
IMPRESSION:  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ y/o female with severe nonverbal autism, developmental and 
intellectual disability, reactive attachment disorder, and 
possible depression/ anxiety presenting on ___ s/p jump out of 
a second story window. She sustained a fractured clavicle and 
extracranial hematoma but has been medically cleared for 
transfer to psychiatry. She was admitted under ___ given 
suicide risk, while awaiting at inpatient psychiatric facility. 

TRANSITIONAL ISSUES:
====================
[ ] Would benefit from admission to a developmental disability 
unit
[ ] Needs follow-up in 2 weeks in the Orthopedic Trauma Clinic 
for her right clavicle fracture 
[ ] Note that inpatient valproate level was 66 this 
hospitalization, well below max range; can use this as guide if 
inpatient team at ___ thinks that up-titration may be 
appropriate. 

ACUTE ISSUES:
=============
#Suicide risk
Patient evaluated by psychiatry, and felt to be at continued 
risk for self harm or aggression toward others. She was placed 
under ___ and admitted while awaiting psychiatric 
placement. While admitted to the medicine service, and on the 
recommendation of the psychiatry team, her home buspirone, 
fluoxetine, divalproex, trazodone, and lorazepam were continued. 


#Clavicle fracture
#Pain control
Nondisplaced clavicle fracture noted after her fall. Her pain 
was managed with acetaminophen 1g PO Q8H, she declined 
narcotics. Per trauma recommendations, her right upper extremity 
was placed in a sling and made non weight-bearing. She was 
cleared for light ADLs, ROMAT at elbow, wrist and fingers. She 
will need f/u in the ortho trauma clinic in 2 weeks. 

#CODE: Full (presumed) 
#CONTACT: ___ (Court appointed guardian)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 15 mg PO BID 
2. FLUoxetine 30 mg PO DAILY 
3. Divalproex (DELayed Release) 750 mg PO QAM 
4. Divalproex (DELayed Release) 500 mg PO QPM 
5. TraZODone 125 mg PO QHS 
6. LORazepam 1 mg PO Q6H:PRN anxiety 
7. Benzonatate 200 mg PO TID:PRN cough 
8. BusPIRone 10 mg PO DAILY 
9. ___ FE ___ (28) (norethindrone-e.estradiol-iron) 1 mg-20 
mcg (21)/75 mg (7) oral DAILY 
10. Calcium Carbonate 300 mg PO BID 
11. Vitamin D 1000 UNIT PO DAILY 
12. ferrous sulfate, dried 159 mg (45 mg iron) oral DAILY 
13. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Benzonatate 200 mg PO TID:PRN cough  
3.  BusPIRone 15 mg PO BID  
4.  BusPIRone 10 mg PO DAILY 
Once daily, at 3pm  
5.  Calcium Carbonate 300 mg PO BID  
6.  Divalproex (DELayed Release) 750 mg PO QAM  
7.  Divalproex (DELayed Release) 500 mg PO QPM  
8.  ferrous sulfate, dried 159 mg (45 mg iron) oral DAILY  
9.  FLUoxetine 30 mg PO DAILY  
10.  ___ FE ___ (28) (norethindrone-e.estradiol-iron) 1 mg-20 
mcg (21)/75 mg (7) oral DAILY  
11.  Loratadine 10 mg PO DAILY  
12.  LORazepam 1 mg PO Q6H:PRN anxiety  
13.  TraZODone 125 mg PO QHS  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Jump from Window, Suicide Risk
Clavicle Fracture 

SECONDARY DIAGNOSIS:
Autism
Intellectual and development disability
Reactive attachment disorder
Anxiety/depression 
 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
================================
- You were getting agitated and aggressive at your facility, and 
jumped out a window from the second floor. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
=======================================
- You had extensive imaging after your fall, which revealed that 
you had a right clavicle fracture. The trauma team saw you and 
felt that you did not need an operation, but would benefit from 
outpatient follow-up and wearing a sling. 
- The psychiatry team saw you, and felt that you would benefit 
from transfer to an inpatient psychiatric facility, for further 
treatment/evaluation, and for your safety.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
================================================
- Continue to take all your medicines and keep your 
appointments.  
- You should follow up with the Ortho trauma clinic in 2 weeks 
for your clavicle fracture. 

We wish you the best!  

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___